US04654369
N,N-Dimethyl 2-[N-(2-hydroxyethyl)-N-methylaminosulfonyl]-6-nitrobenzamide
A solution of N,N-Dimethyl 2-(N-(2-hydroxyethyl)aminosulfonyl]-6-nitrobenzamide (3.97 g, 12.5 mmol) in dry DMF (40 ml) was added slowly to a stirred suspension of 50% NaH (0.60 g, 12.5 mmol) in dry DMF (10 ml) under N2 at 20°-25° C. After formation of the sodium salt was complete, a solution of methyl p-toluenesulfonate (2.40 g, 12.9 mmol) in DMF (4 ml) was added and the reaction mixture stirred at 20°-25° C. for 20 hours and then at 60° C. for 23 hours. The orange solution was mixed with EtOAc (400 ml) and the white solid which formed was filtered off. This precipitate was washed with EtOAc (100 ml). The combined EtOAc solutions were washed with a saturated aqueous NaCl solution, dried (Na2SO4), filtered and concentrated under reduced pressure. Pure product, mp 107°-08° C., 2.5 g (60%) was obtained by flash chromatography over silica gel and elution with a 65% n-butylchloride-35% acetonitrile solvent mixture.

reactant | N,N-Dimethyl 2-(N-(2-hydroxyethyl)aminosulfonyl]-6-nitrobenzamide | 12.5 mmol, 3.97 g | CN(C(C1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)NCCO)=O)C | C11H15N3O6S
reactant | NaH | 12.5 mmol, 0.60 g | [H-].[Na+]
reactant | sodium | [Na] | Na
reactant | methyl p-toluenesulfonate | 12.9 mmol, 2.40 g | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 400 ml | CCOC(=O)C | C4H8O2
product | N,N-Dimethyl 2-[N-(2-hydroxyethyl)-N-methylaminosulfonyl]-6-nitrobenzamide | CN(C(C1=C(C=CC=C1[N+](=O)[O-])S(=O)(=O)N(C)CCO)=O)C | C12H17N3O6S
